US05430047
Step B: Preparation of 3-[3-(4-Fluorophenyl)-1-[-2-(4-fluorophenyl)-2-oxoethyl]-3-oxopropyl]-benzonitrile
1-Fluoro-4-[1-[(trimethylsilyl) oxy]ethenyl]-benzene (0.98 g, 2.86 mmol) is added to a cooled (-78° C.) solution of 3-[3-(4-fluorophenyl)-3-oxo-1-propenyl]-benzonitrile (0.6 g, 2.39 mmol) and TrSnCl5 (0.1 g, 0.19 mmol) in 70 mL of dichloromethane and stirred under nitrogen (N2) for 3 hours. The reaction mixture is diluted with additional dichloromethane, washed with a saturated solution of sodium bicarbonate, dried (MgSO4), and concentrated to an oil. The oil is taken up in 200 mL of diethyl ether and stirred with a few drops of tetrabutylammonium fluoride for 2 days. The diethyl ether is removed under vacuum and the residue columned over SiO2 eluting with dichloromethane. Pure fractions are combined, concentrated, and triturated in diethyl ether-hexane to provide 0.9 g of analytical material; mp 120°-123° C.

reactant | 1-Fluoro-4-[1-[(trimethylsilyl) oxy]ethenyl]-benzene | 2.86 mmol, 0.98 g | FC1=CC=C(C=C1)C(=C)O[Si](C)(C)C | C11H15FOSi
reactant | 3-[3-(4-fluorophenyl)-3-oxo-1-propenyl]-benzonitrile | 2.39 mmol, 0.6 g | FC1=CC=C(C=C1)C(C=CC=1C=C(C#N)C=CC1)=O | C16H10FNO
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | 3-[3-(4-Fluorophenyl)-1-[-2-(4-fluorophenyl)-2-oxoethyl]-3-oxopropyl]-benzonitrile | 0.9 g | FC1=CC=C(C=C1)C(CC(CC(=O)C1=CC=C(C=C1)F)C=1C=C(C#N)C=CC1)=O | C24H17F2NO2
